US07989457B2
2-(4-Trifluoromethyl-phenyl)-pyrimidine-5-carboxylic acid methoxy-methyl-amide (2.46 g, 7.936 mmol) is suspended in anhydrous tetrahydrofuran (40 mL), and cooled to 0° C. with stirring under nitrogen. N-hexyl magnesium bromide (8.0 mL, 2.0 M in diethyl ether, 16 mmol) is slowly added to the reaction over 1 h. The reaction is allowed to warm slowly to room temperature and monitored by TLC. Upon complete consumption of starting material, the reaction is carefully neutralized with 1N hydrochloric acid, extracted with diethyl ether, washed, dried, and concentrated. The 1-[2-(4-Trifluoromethyl-phenyl)-pyrimidin-5-yl]-heptan-1-one (1.47 g, 4.36 mmol) is obtained in pure form after flash column chromatography.

reactant | 2-(4-Trifluoromethyl-phenyl)-pyrimidine-5-carboxylic acid methoxy-methyl-amide | 7.936 mmol, 2.46 g | CON(C(=O)C=1C=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C | C14H12F3N3O2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 1-[2-(4-Trifluoromethyl-phenyl)-pyrimidin-5-yl]-heptan-1-one | 4.36 mmol, 1.47 g | FC(C1=CC=C(C=C1)C1=NC=C(C=N1)C(CCCCCC)=O)(F)F | C18H19F3N2O
